US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-(2-ethyloxyphenoxy)ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [3-(1H-indol-3-yl)-prop-1-yl]amine, gave [3-(1H-indol-3-yl)prop-1-yl][2-(2-ethyloxyphenoxy)ethyl]amine hydrochloride, m.p. 147°-148° C.

reactant | 2-(2-ethyloxyphenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC | C11H16O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [3-(1H-indol-3-yl)-prop-1-yl]amine | N1C=C(C2=CC=CC=C12)CCCN | C11H14N2
product | [3-(1H-indol-3-yl)prop-1-yl][2-(2-ethyloxyphenoxy)ethyl]amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CCCNCCOC1=C(C=CC=C1)OCC | InChI=1S/C21H26N2O2.ClH/c1-2-24-20-11-5-6-12-21(20)25-15-14-22-13-7-8-17-16-23-19-10-4-3-9-18(17)19;/h3-6,9-12,16,22-23H,2,7-8,13-15H2,1H3;1H
